.INCLUDE 22nm_MGK.pm
.OPTIONS GMIN=1e-020 ABSTOL=1e-18
.INCLUDE AND.sub
.INCLUDE AND_3.sub
.INCLUDE OR.sub
.INCLUDE XOR.sub
.INCLUDE INVERTER.sub
.PARAM Lmin=22n
.PARAM Wmin=22n
.PARAM Ldiff=44n
.PARAM SUPPLY=0.8
.global vdd gnd

VDS vdd gnd 'SUPPLY'

Vin1 in1 gnd 0
Vin2 in5 gnd 0
Vin3 in9 gnd 0
Vin4 in13 gnd 'SUPPLY'
Vin5 in17 gnd 0
Vin6 in21 gnd 0
Vin7 in25 gnd 0
Vin8 in29 gnd 0
Vin9 in33 gnd 0
Vin10 in37 gnd 0
Vin11 in41 gnd 'SUPPLY'
Vin12 in45 gnd 0
Vin13 in49 gnd 0
Vin14 in53 gnd 0
Vin15 in57 gnd 0
Vin16 in61 gnd 0
Vin17 in65 gnd 0
Vin18 in69 gnd 0
Vin19 in73 gnd 0
Vin20 in77 gnd 'SUPPLY'
Vin21 in81 gnd 0
Vin22 in85 gnd 0
Vin23 in89 gnd 0
Vin24 in93 gnd 0
Vin25 in97 gnd 0
Vin26 in101 gnd 0
Vin27 in105 gnd 0
Vin28 in109 gnd 0
Vin29 in113 gnd 0
Vin30 in117 gnd 0
Vin31 in121 gnd 0
Vin32 in125 gnd 0
Vin33 in129 gnd 0
Vin34 in130 gnd 0
Vin35 in131 gnd 'SUPPLY'
Vin36 in132 gnd 0
Vin37 in133 gnd 0
Vin38 in134 gnd 0
Vin39 in135 gnd 0
Vin40 in136 gnd 0
Vin41 in137 gnd 0

*************************************************************************

X_XA0 in1 in5 XA__0 vdd gnd XOR
X_XA1 in9 in13 XA__1 vdd gnd XOR
X_XA2 in17 in21 XA__2 vdd gnd XOR
X_XA3 in25 in29 XA__3 vdd gnd XOR
X_XA4 in33 in37 XA__4 vdd gnd XOR
X_XA5 in41 in45 XA__5 vdd gnd XOR
X_XA6 in49 in53 XA__6 vdd gnd XOR
X_XA7 in57 in61 XA__7 vdd gnd XOR
X_XA8 in65 in69 XA__8 vdd gnd XOR
X_XA9 in73 in77 XA__9 vdd gnd XOR
X_XA10 in81 in85 XA__10 vdd gnd XOR
X_XA11 in89 in93 XA__11 vdd gnd XOR
X_XA12 in97 in101 XA__12 vdd gnd XOR
X_XA13 in105 in109 XA__13 vdd gnd XOR
X_XA14 in113 in117 XA__14 vdd gnd XOR
X_XA15 in121 in125 XA__15 vdd gnd XOR

X_F0 XA__0 XA__1 F__0 vdd gnd XOR
X_F1 XA__2 XA__3 F__1 vdd gnd XOR
X_F2 XA__4 XA__5 F__2 vdd gnd XOR
X_F3 XA__6 XA__7 F__3 vdd gnd XOR
X_F4 XA__8 XA__9 F__4 vdd gnd XOR
X_F5 XA__10 XA__11 F__5 vdd gnd XOR
X_F6 XA__12 XA__13 F__6 vdd gnd XOR
X_F7 XA__14 XA__15 F__7 vdd gnd XOR

X_H0 in129 in137 H__0 vdd gnd AND
X_H1 in130 in137 H__1 vdd gnd AND
X_H2 in131 in137 H__2 vdd gnd AND
X_H3 in132 in137 H__3 vdd gnd AND
X_H4 in133 in137 H__4 vdd gnd AND
X_H5 in134 in137 H__5 vdd gnd AND
X_H6 in135 in137 H__6 vdd gnd AND
X_H7 in136 in137 H__7 vdd gnd AND

X_XB0 in1 in17 XB__0 vdd gnd XOR
X_XB1 in5 in21 XB__1 vdd gnd XOR
X_XB2 in9 in25 XB__2 vdd gnd XOR
X_XB3 in13 in29 XB__3 vdd gnd XOR
X_XB4 in65 in81 XB__4 vdd gnd XOR
X_XB5 in69 in85 XB__5 vdd gnd XOR
X_XB6 in73 in89 XB__6 vdd gnd XOR
X_XB7 in77 in93 XB__7 vdd gnd XOR

X_XC0 in33 in49 XC__0 vdd gnd XOR
X_XC1 in37 in53 XC__1 vdd gnd XOR
X_XC2 in41 in57 XC__2 vdd gnd XOR
X_XC3 in45 in61 XC__3 vdd gnd XOR
X_XC4 in97 in113 XC__4 vdd gnd XOR
X_XC5 in101 in117 XC__5 vdd gnd XOR
X_XC6 in105 in121 XC__6 vdd gnd XOR
X_XC7 in109 in125 XC__7 vdd gnd XOR

X_XE0 XB__0 XC__0 XE__0 vdd gnd XOR
X_XE1 XB__1 XC__1 XE__1 vdd gnd XOR
X_XE2 XB__2 XC__2 XE__2 vdd gnd XOR
X_XE3 XB__3 XC__3 XE__3 vdd gnd XOR
X_XE4 XB__4 XC__4 XE__4 vdd gnd XOR
X_XE5 XB__5 XC__5 XE__5 vdd gnd XOR
X_XE6 XB__6 XC__6 XE__6 vdd gnd XOR
X_XE7 XB__7 XC__7 XE__7 vdd gnd XOR

X_G0 F__0 F__1 G__0 vdd gnd XOR
X_G1 F__2 F__3 G__1 vdd gnd XOR
X_G2 F__0 F__2 G__2 vdd gnd XOR
X_G3 F__1 F__3 G__3 vdd gnd XOR
X_G4 F__4 F__5 G__4 vdd gnd XOR
X_G5 F__6 F__7 G__5 vdd gnd XOR
X_G6 F__4 F__6 G__6 vdd gnd XOR
X_G7 F__5 F__7 G__7 vdd gnd XOR

X_XD0 G__4 H__0 XD__0 vdd gnd XOR
X_XD1 G__5 H__1 XD__1 vdd gnd XOR
X_XD2 G__6 H__2 XD__2 vdd gnd XOR
X_XD3 G__7 H__3 XD__3 vdd gnd XOR
X_XD4 G__0 H__4 XD__4 vdd gnd XOR
X_XD5 G__1 H__5 XD__5 vdd gnd XOR
X_XD6 G__2 H__6 XD__6 vdd gnd XOR
X_XD7 G__3 H__7 XD__7 vdd gnd XOR

X_S0 XD__0 XE__0 S__0 vdd gnd XOR
X_S1 XD__1 XE__1 S__1 vdd gnd XOR
X_S2 XD__2 XE__2 S__2 vdd gnd XOR
X_S3 XD__3 XE__3 S__3 vdd gnd XOR
X_S4 XD__4 XE__4 S__4 vdd gnd XOR
X_S5 XD__5 XE__5 S__5 vdd gnd XOR
X_S6 XD__6 XE__6 S__6 vdd gnd XOR
X_S7 XD__7 XE__7 S__7 vdd gnd XOR



* Syndrome *

*************************************************************************

X_S0B0 S__0 S0B__0 vdd gnd INVERTER
X_S0B1 S__0 S0B__1 vdd gnd INVERTER
X_S0B2 S__0 S0B__2 vdd gnd INVERTER
X_S0B3 S__0 S0B__3 vdd gnd INVERTER
X_S0B4 S__0 S0B__4 vdd gnd INVERTER
X_S1B0 S__1 S1B__0 vdd gnd INVERTER
X_S1B1 S__1 S1B__1 vdd gnd INVERTER
X_S1B2 S__1 S1B__2 vdd gnd INVERTER
X_S1B3 S__1 S1B__3 vdd gnd INVERTER
X_S1B4 S__1 S1B__4 vdd gnd INVERTER
X_S2B0 S__2 S2B__0 vdd gnd INVERTER
X_S2B1 S__2 S2B__1 vdd gnd INVERTER
X_S2B2 S__2 S2B__2 vdd gnd INVERTER
X_S2B3 S__2 S2B__3 vdd gnd INVERTER
X_S2B4 S__2 S2B__4 vdd gnd INVERTER
X_S3B0 S__3 S3B__0 vdd gnd INVERTER
X_S3B1 S__3 S3B__1 vdd gnd INVERTER
X_S3B2 S__3 S3B__2 vdd gnd INVERTER
X_S3B3 S__3 S3B__3 vdd gnd INVERTER
X_S3B4 S__3 S3B__4 vdd gnd INVERTER
X_S4B0 S__4 S4B__0 vdd gnd INVERTER
X_S4B1 S__4 S4B__1 vdd gnd INVERTER
X_S4B2 S__4 S4B__2 vdd gnd INVERTER
X_S4B3 S__4 S4B__3 vdd gnd INVERTER
X_S4B4 S__4 S4B__4 vdd gnd INVERTER
X_S5B0 S__5 S5B__0 vdd gnd INVERTER
X_S5B1 S__5 S5B__1 vdd gnd INVERTER
X_S5B2 S__5 S5B__2 vdd gnd INVERTER
X_S5B3 S__5 S5B__3 vdd gnd INVERTER
X_S5B4 S__5 S5B__4 vdd gnd INVERTER
X_S6B0 S__6 S6B__0 vdd gnd INVERTER
X_S6B1 S__6 S6B__1 vdd gnd INVERTER
X_S6B2 S__6 S6B__2 vdd gnd INVERTER
X_S6B3 S__6 S6B__3 vdd gnd INVERTER
X_S6B4 S__6 S6B__4 vdd gnd INVERTER
X_S7B0 S__7 S7B__0 vdd gnd INVERTER
X_S7B1 S__7 S7B__1 vdd gnd INVERTER
X_S7B2 S__7 S7B__2 vdd gnd INVERTER
X_S7B3 S__7 S7B__3 vdd gnd INVERTER
X_S7B4 S__7 S7B__4 vdd gnd INVERTER

X_T0_temp S0B__0 S1B__0 S2B__0 T0_temp vdd gnd AND_3
X_T0 T0_temp S__3 T__0 vdd gnd AND
X_T1_temp S0B__1 S1B__1 S__2 T1_temp vdd gnd AND_3
X_T1 T1_temp S3B__0 T__1 vdd gnd AND
X_T2_temp S0B__2 S__1 S2B__1 T2_temp vdd gnd AND_3
X_T2 T2_temp S3B__1 T__2 vdd gnd AND
X_T3_temp S__0 S1B__2 S2B__2 T3_temp vdd gnd AND_3
X_T3 T3_temp S3B__2 T__3 vdd gnd AND
X_T4_temp S4B__0 S5B__0 S6B__0 T4_temp vdd gnd AND_3
X_T4 T4_temp S__7 T__4 vdd gnd AND
X_T5_temp S4B__1 S5B__1 S__6 T5_temp vdd gnd AND_3
X_T5 T5_temp S7B__0 T__5 vdd gnd AND
X_T6_temp S4B__2 S__5 S6B__1 T6_temp vdd gnd AND_3
X_T6 T6_temp S7B__1 T__6 vdd gnd AND
X_T7_temp S__4 S5B__2 S6B__2 T7_temp vdd gnd AND_3
X_T7 T7_temp S7B__2 T__7 vdd gnd AND

X_U0_temp1 T__0 T__1 T0_out1 vdd gnd OR
X_U0_temp2 T0_out1 T__2 T0_out2 vdd gnd OR
X_U0 T0_out2 T__3 U__0 vdd gnd OR
X_U1_temp1 T__4 T__5 T1_out1 vdd gnd OR
X_U1_temp2 T1_out1 T__6 T1_out2 vdd gnd OR
X_U1 T1_out2 T__7 U__1 vdd gnd OR

X_W0_temp S__4 S5B__3 S__6 W0_temp vdd gnd AND_3
X_W0 W0_temp S7B__3 U__0 W__0 vdd gnd AND_3
X_W1_temp S__4 S5B__4 S6B__3 W1_temp vdd gnd AND_3
X_W1 W1_temp S__7 U__0 W__1 vdd gnd AND_3
X_W2_temp S4B__3 S__5 S__6 W2_temp vdd gnd AND_3
X_W2 W2_temp S7B__4 U__0 W__2 vdd gnd AND_3
X_W3_temp S4B__4 S__5 S6B__4 W3_temp vdd gnd AND_3
X_W3 W3_temp S__7 U__0 W__3 vdd gnd AND_3
X_W4_temp S__0 S1B__3 S__2 W4_temp vdd gnd AND_3
X_W4 W4_temp S3B__3 U__1 W__4 vdd gnd AND_3
X_W5_temp S__0 S1B__4 S2B__3 W5_temp vdd gnd AND_3
X_W5 W5_temp S__3 U__1 W__5 vdd gnd AND_3
X_W6_temp S0B__3 S__1 S__2 W6_temp vdd gnd AND_3
X_W6 W6_temp S3B__4 U__1 W__6 vdd gnd AND_3
X_W7_temp S0B__4 S__1 S2B__4 W7_temp vdd gnd AND_3
X_W7 W7_temp S__3 U__1 W__7 vdd gnd AND_3

X_E0 W__0 S__0 E__0 vdd gnd AND
X_E1 W__0 S__1 E__1 vdd gnd AND
X_E2 W__0 S__2 E__2 vdd gnd AND
X_E3 W__0 S__3 E__3 vdd gnd AND
X_E4 W__1 S__0 E__4 vdd gnd AND
X_E5 W__1 S__1 E__5 vdd gnd AND
X_E6 W__1 S__2 E__6 vdd gnd AND
X_E7 W__1 S__3 E__7 vdd gnd AND
X_E8 W__2 S__0 E__8 vdd gnd AND
X_E9 W__2 S__1 E__9 vdd gnd AND
X_E10 W__2 S__2 E__10 vdd gnd AND
X_E11 W__2 S__3 E__11 vdd gnd AND
X_E12 W__3 S__0 E__12 vdd gnd AND
X_E13 W__3 S__1 E__13 vdd gnd AND
X_E14 W__3 S__2 E__14 vdd gnd AND
X_E15 W__3 S__3 E__15 vdd gnd AND
X_E16 W__4 S__4 E__16 vdd gnd AND
X_E17 W__4 S__5 E__17 vdd gnd AND
X_E18 W__4 S__6 E__18 vdd gnd AND
X_E19 W__4 S__7 E__19 vdd gnd AND
X_E20 W__5 S__4 E__20 vdd gnd AND
X_E21 W__5 S__5 E__21 vdd gnd AND
X_E22 W__5 S__6 E__22 vdd gnd AND
X_E23 W__5 S__7 E__23 vdd gnd AND
X_E24 W__6 S__4 E__24 vdd gnd AND
X_E25 W__6 S__5 E__25 vdd gnd AND
X_E26 W__6 S__6 E__26 vdd gnd AND
X_E27 W__6 S__7 E__27 vdd gnd AND
X_E28 W__7 S__4 E__28 vdd gnd AND
X_E29 W__7 S__5 E__29 vdd gnd AND
X_E30 W__7 S__6 E__30 vdd gnd AND
X_E31 W__7 S__7 E__31 vdd gnd AND

X_OD0 in1 E__0 out724 vdd gnd XOR
X_OD1 in5 E__1 out725 vdd gnd XOR
X_OD2 in9 E__2 out726 vdd gnd XOR
X_OD3 in13 E__3 out727 vdd gnd XOR
X_OD4 in17 E__4 out728 vdd gnd XOR
X_OD5 in21 E__5 out729 vdd gnd XOR
X_OD6 in25 E__6 out730 vdd gnd XOR
X_OD7 in29 E__7 out731 vdd gnd XOR
X_OD8 in33 E__8 out732 vdd gnd XOR
X_OD9 in37 E__9 out733 vdd gnd XOR
X_OD10 in41 E__10 out734 vdd gnd XOR
X_OD11 in45 E__11 out735 vdd gnd XOR
X_OD12 in49 E__12 out736 vdd gnd XOR
X_OD13 in53 E__13 out737 vdd gnd XOR
X_OD14 in57 E__14 out738 vdd gnd XOR
X_OD15 in61 E__15 out739 vdd gnd XOR
X_OD16 in65 E__16 out740 vdd gnd XOR
X_OD17 in69 E__17 out741 vdd gnd XOR
X_OD18 in73 E__18 out742 vdd gnd XOR
X_OD19 in77 E__19 out743 vdd gnd XOR
X_OD20 in81 E__20 out744 vdd gnd XOR
X_OD21 in85 E__21 out745 vdd gnd XOR
X_OD22 in89 E__22 out746 vdd gnd XOR
X_OD23 in93 E__23 out747 vdd gnd XOR
X_OD24 in97 E__24 out748 vdd gnd XOR
X_OD25 in101 E__25 out749 vdd gnd XOR
X_OD26 in105 E__26 out750 vdd gnd XOR
X_OD27 in109 E__27 out751 vdd gnd XOR
X_OD28 in113 E__28 out752 vdd gnd XOR
X_OD29 in117 E__29 out753 vdd gnd XOR
X_OD30 in121 E__30 out754 vdd gnd XOR
X_OD31 in125 E__31 out755 vdd gnd XOR



* Correction *

*Definizione del tipo di analisi
.CONTROL

*Voltages: drain gate source
*Current: drain gate source body

dc TEMP 85 85 85
print V(in1) I(Vin1)
print V(in5) I(Vin2)
print V(in9) I(Vin3)
print V(in13) I(Vin4)
print V(in17) I(Vin5)
print V(in21) I(Vin6)
print V(in25) I(Vin7)
print V(in29) I(Vin8)
print V(in33) I(Vin9)
print V(in37) I(Vin10)
print V(in41) I(Vin11)
print V(in45) I(Vin12)
print V(in49) I(Vin13)
print V(in53) I(Vin14)
print V(in57) I(Vin15)
print V(in61) I(Vin16)
print V(in65) I(Vin17)
print V(in69) I(Vin18)
print V(in73) I(Vin19)
print V(in77) I(Vin20)
print V(in81) I(Vin21)
print V(in85) I(Vin22)
print V(in89) I(Vin23)
print V(in93) I(Vin24)
print V(in97) I(Vin25)
print V(in101) I(Vin26)
print V(in105) I(Vin27)
print V(in109) I(Vin28)
print V(in113) I(Vin29)
print V(in117) I(Vin30)
print V(in121) I(Vin31)
print V(in125) I(Vin32)
print V(in129) I(Vin33)
print V(in130) I(Vin34)
print V(in131) I(Vin35)
print V(in132) I(Vin36)
print V(in133) I(Vin37)
print V(in134) I(Vin38)
print V(in135) I(Vin39)
print V(in136) I(Vin40)
print V(in137) I(Vin41)
quit
.ENDC
.END